US07504508B2
N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-N-[4-(1H-pyrrol-1-yl)phenyl]acetamide (G-29)
N-(4-amino-phenyl)-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (22 mg, 0.05 mmol) was dissolved in MeOH:THF (1 mL each) and cooled to 10° C. 2,5-dimethoxy-tetrahydrofuran (1.25 equiv.) was dissolved in THF and catalytic H2SO4, and added drop wise to the aniline mixture. The mixture was poured into sat. NaHCO3 and extracted with ethyl acetate. The organic layer was dried, filtered and concentrated, and the crude residue was purified by preparative HPLC to afford the title compound as an off-white solid.

reactant | N-(4-amino-phenyl)-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.05 mmol, 22 mg | NC1=CC=C(C=C1)N(C(C)=O)C1CC(N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C26H27N3O3
reactant | 2,5-dimethoxy-tetrahydrofuran | 1.25 equiv. | COC1OC(CC1)OC | C6H12O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-N-[4-(1H-pyrrol-1-yl)phenyl]acetamide | COC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)N2C=CC=C2)C)C=C1 | C30H29N3O3
